US04826862
A mixture of 9.18 parts of methyl [5-[bromo(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]carbamate monohydrobromide, 12.3 parts of 2-methyl-1H-imidazole and 56.4 parts of N,N-dimethylformamide was stirred for 17 hours at room temperature. The reaction mixture was diluted with 300 parts of water. The precipitated product was filtered off and dissolved in dichloromethane. The organic layer was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and methanol, saturated with ammonia, (90:5:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 27 parts of ethyl acetate. The product was filtered off, washed with 1,1'-oxybisethane and dried, yielding 2.6 parts (34.2%) of methyl [5-[(4-fluorophenyl)(2-methyl-1H-imidazol-1-yl)methyl]-1H-benzimidazol-2-yl]carbamate; mp. >300° C. (compound 6).

reactant | methyl [5-[bromo(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]carbamate monohydrobromide | Br.BrC(C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)C1=CC=C(C=C1)F
reactant | 2-methyl-1H-imidazole | CC=1NC=CN1 | C4H6N2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl [5-[(4-fluorophenyl)(2-methyl-1H-imidazol-1-yl)methyl]-1H-benzimidazol-2-yl]carbamate | 34.2% | FC1=CC=C(C=C1)C(C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)N1C(=NC=C1)C | C20H18FN5O2
